US08871738B2
A suspension of iodine (2.45 g, 9.66 mmol), silver sulfate (3.01 g, 9.66 mmol) and methyl 5-(4-methoxyphenyl)-4-methylpyridine-2-carboxylate (2.47 g, 9.59 mmol) in MeOH (20 mL) was stirred at room temperature for 3.5 hours. It was then heated at 36° C. for 4 hours and then at room temperature for another 16 hours. Additional iodine (0.8 g, 3.15 mmol) and silver sulfate (1 g, 3.2 mmol) were added and the reaction was heated to 36° C. for 3 hours. The volatiles were removed and the reaction was diluted with ethyl acetate and aqueous sodium thiosulfate. The organic was washed with brine, dried over sodium sulfate, filtered and then concentrated. The resultant oil was purified by column chromatography to yield methyl 5-(3-iodo-4-methoxyphenyl)-4-methylpyridine-2-carboxylate (2.35 g, 6.12 mmol) as a white solid. MS ESI calc'd. for C15H15INO3 [M+H]+ 384.0. found 384.0.

reactant | iodine | 9.66 mmol, 2.45 g | II | I2
reactant | methyl 5-(4-methoxyphenyl)-4-methylpyridine-2-carboxylate | 9.59 mmol, 2.47 g | COC1=CC=C(C=C1)C=1C(=CC(=NC1)C(=O)OC)C | C15H15NO3
reactant | iodine | 3.15 mmol, 0.8 g | II | I2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | silver sulfate | 9.66 mmol, 3.01 g | S(=O)(=O)([O-])[O-].[Ag+2]
catalyst | silver sulfate | 3.2 mmol, 1 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | methyl 5-(3-iodo-4-methoxyphenyl)-4-methylpyridine-2-carboxylate | 6.12 mmol, 2.35 g | IC=1C=C(C=CC1OC)C=1C(=CC(=NC1)C(=O)OC)C | C15H14INO3
